US07462614B2
To a solution of N-(1-{3-[(3,4,5-trimethoxyphenyl)amino]-1,2,4-triazin-6-yl}ethyl)benzamide (150 mg, 0.38 mmol) in 1,2-dichloroethane (10 mL) was added phosphorus oxychloride (0.28 mL, 3.0 mmol). The mixture was heated to reflux for 24 hours. After cooling to room temperature, the excess phosphorus oxychloride was quenched with water and silica gel (0.5 g) was added to the reaction mixture, followed by evaporation of the volatiles under reduced pressure. The pre-adsorbed solids were loaded into a solid loading cartridge and subjected to a gradient elution using ethyl acetate:hexane (25:75) to ethyl acetate (100%) using a RediSep silica gel cartridge (4.2 g; ISCO). The appropriate fractions were combined and concentrated under reduced pressure to give 5-methyl-7-phenyl-N-(3,4,5-trimethoxyphenyl)imidazo[5,1-f][1,2,4]triazin-2-amine (0.014 g) as an off-white solid. 1H NMR (CDCl3): δ8.78 (s, 1H), 8.43 (d, J=6.9 Hz, 2H), 7.49-7.35 (m, 3H), 6.94 (s, 1H), 6.68 (s, 2H), 3.83 (s, 3H), 3.81 (s, 6H), 2.59 (s, 3H). MS m/z 392 (M+1).

reactant | N-(1-{3-[(3,4,5-trimethoxyphenyl)amino]-1,2,4-triazin-6-yl}ethyl)benzamide | 0.38 mmol, 150 mg | COC=1C=C(C=C(C1OC)OC)NC=1N=NC(=CN1)C(C)NC(C1=CC=CC=C1)=O | C21H23N5O4
reactant | phosphorus oxychloride | 3.0 mmol, 0.28 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | 5-methyl-7-phenyl-N-(3,4,5-trimethoxyphenyl)imidazo[5,1-f][1,2,4]triazin-2-amine | 0.014 g | CC=1N=C(N2N=C(N=CC21)NC2=CC(=C(C(=C2)OC)OC)OC)C2=CC=CC=C2 | C21H21N5O3
